US05162311
a) (±)-α-Amino-3-(4'-chloro-5-(diethoxyphosphinyl)methyl-[1.1'-biphenyl]-3-yl) propanoic acid
4.6 g (±)-α-amino-3-(4'-chloro-5-(diethoxyphosphinyl)methyl [1.1'-biphenyl]-3-yl) propanoic acid ethyl ester, 1 equivalent of 1N sodium hydroxide and 4 parts by volume of tetrahydrofuran are stirred at room temperature for about 15 hours. The tetrahydrofuran is evaporated in vacuo. The residue is extracted with toluene/diethyl ether (1:1). The pH of the aqueous layer is adjusted to 5, whereby the heading compound crystallizes, m.p. 195°-205° (decomp.).

reactant | (±)-α-amino-3-(4'-chloro-5-(diethoxyphosphinyl)methyl [1.1'-biphenyl]-3-yl) propanoic acid ethyl ester | 4.6 g | C(C)OC(C(CC=1C=C(C=C(C1)CP(=O)(OCC)OCC)C1=CC=C(C=C1)Cl)N)=O | C22H29ClNO5P
reactant | sodium hydroxide | 1N, 1 equivalent | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (±)-α-Amino-3-(4'-chloro-5-(diethoxyphosphinyl)methyl-[1.1'-biphenyl]-3-yl) propanoic acid | NC(C(=O)O)CC=1C=C(C=C(C1)CP(=O)(OCC)OCC)C1=CC=C(C=C1)Cl | C20H25ClNO5P
